data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1336,1465,[CH3:17][C:18](=[O:19])[c-:20]1[o+:21][c:22]([CH3:23])[o:24][c:25]1=[O:26].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:22]1([CH3:23])[O:21][C:20]2([C:18]([CH3:17])=[O:19])[C:25](=[O:26])[O:24]1,water,298.15,19.22341067972397,-28.82848331166444
4404,5036,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[c-:12]1[c:13](=[O:14])[o:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[n+:23]1[CH3:24]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:12]1([C:10]([CH3:9])=[O:11])[C:13](=[O:14])[O:15][C:16]2([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:23]1[CH3:24],water,298.15,27.80873773335541,8.104402277330102
3967,4540,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:19]([CH3:20])=[O:21],water,298.15,13.696138703405714,-33.32420751066949
2165,2401,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[N+:29]([CH3:30])[O-:31]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[O:31][N:29]([CH3:30])[C:26]2([C:24]([CH3:23])=[O:25])[C:27]#[N:28],water,298.15,24.68039349009363,-18.98615577710897
1560,1726,[CH3:14][NH:15][C:16](=[O:17])[N-:18][N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27].[N:1]#[C:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,25.76260820124391,-4.032478186355527
667,727,[CH3:1][O:2][C:3]#[C:4][C:5]#[N:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])=[N:12][C:13]1([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,15.467120048938416,-71.98247013163214
3063,3437,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[N:5]#[C:6][CH-:7][O+:8]=[CH:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH:7]([C:6]#[N:5])[O:8][CH:9]1[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1,water,298.15,13.219398099690714,-57.18609504124366
4526,5164,[N:9]#[C:10][C:11](=[NH+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[NH:12][C:11]1([C:10]#[N:9])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,14.322442607387725,-17.66554601779626
2962,3309,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8]#[N:9])=[NH+:10][CH-:11][C:12]#[N:13]>>[CH2:1]1[CH2:2][CH:11]([C:12]#[N:13])[NH:10][C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8]#[N:9],water,298.15,17.332605581111473,-27.994777934959608
4333,4954,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,8.401328966915077,-39.33840682096135
4000,4576,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]#[N:18])[o:19][c:20]1=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]2([C:17]#[N:18])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:20](=[O:21])[O:19]2,water,298.15,11.975242641879984,-19.081004443260287
697,757,[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]([CH3:17])=[CH:18][C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]([CH3:17])[CH:18]2[C:19](=[O:20])[O:21][CH3:22],water,298.15,12.86738573697204,-48.36928797099975
